US06709693B1
17.5 g of decanoic acid methyl ester is dissolved in 1 l of absolute ethanol and mixed with 350 ml of hydrazine hydrate. It is refluxed for 3 hours and then stirred overnight at room temperature. The solution is concentrated by evaporation to about 300 ml and allowed to stand until the product is crystallized out. After it is filtered off and dried, 16.6 g (=94% of theory) of decanoic acid hydrazide is obtained.

reactant | decanoic acid methyl ester | 17.5 g | COC(CCCCCCCCC)=O | C11H22O2
reactant | hydrazine hydrate | 350 ml | O.NN
solvent | ethanol | 1 l | C(C)O | C2H6O
product | decanoic acid hydrazide | 16.6 g, 94% | C(CCCCCCCCC)(=O)NN | C10H22N2O
